US08975443B2
A flask was charged with 10.8 g of (2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (66% potent, 7.13 g, 22.8 mmol, 1.0 equiv) and 6.6 g of 2,6-dimethyl-2,5-heptadien-4-one (47.7 mmol, 2.1 equiv). The vessel was purged with argon gas and immersed in an oil bath at 170° C. with magnetic stirring. The flask was sealed with a Teflon stopcock and the reaction was allowed to proceed under a static argon atmosphere. The flask was removed from the oil bath after 14 h and the contents allowed to cool to room temperature under argon gas. Anhydrous ethanol (70 mL) was added to the unpurified solids and the solids were broken up manually. The slurry was warmed to 80° C., held for an hour, and cooled to room temperature. The product was isolated by filtration, washes with ethanol and dried in vacuo to give 7.82 g of 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-one (98 area % by HPLC, 74% yield).

reactant | (2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 22.8 mmol, 10.8 g, 1.0 equiv | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)C1=C(C=CC=C1)P | C21H29P
reactant | 2,6-dimethyl-2,5-heptadien-4-one | 47.7 mmol, 6.6 g, 2.1 equiv | CC(C)=CC(C=C(C)C)=O | C9H14O
product | 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-one | 7.82 g, 74% yield | CC1(P(C(CC(C1)=O)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C30H43OP
